US04772600
5-Chloro-2-(4-chlorophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A solution of 5-chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (5.0 g, 0.0155 mole) and 1,1'-carbonyldiimidazol (2.52 g, 0.0155 mole) in dry tetrahydrofuran (100 ml) was refluxed under nitrogen for two hours. The solution was cooled to room temperature and a stream of nitrogen was bubbled through it for thirty minutes. A solution of methylamine in tetrahydrofuran (36 ml of a 2.59M solution, 0.0932 mole) was added and the suspension was stirred at room temperature under nitrogen for three days. The solvents were evaporated under reduced pressure and the resulting solid was triturated in water (100 ml), collected by filtration, and rinsed twice with water, twice with a 5% potassium hydroxide solution and twice again with water. The solid was dissolved in hot isopropyl alcohol, dried over magnesium sulfate, treated with charcoal and filtered while hot. The filtrate was reduced to one-half its original volume and isopropyl ethyl was added. Upon cooling to room temperature, solid precipitated, which was collected by filtration, rinsed with isopropyl ether and dried under high vacuum at 60° C. to give 3.45 g (66% yield) of title compound, mp>250° C.

reactant | 5-chloro-2-(4-chlorophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.0155 mole, 5.0 g | ClC1=CC=C2C(=N1)N(C(=N2)C2=CC=C(C=C2)Cl)CC(=O)O | C14H9Cl2N3O2
reactant | 1,1'-carbonyldiimidazol | 0.0155 mole, 2.52 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Chloro-2-(4-chlorophenyl)-N-methyl-3H-imidazo[4,5-b]pyridine-3-acetamide | 3.45 g, 66% yield | ClC1=CC=C2C(=N1)N(C(=N2)C2=CC=C(C=C2)Cl)CC(=O)NC | C15H12Cl2N4O
